US08497265B2
(3-((3-(3,6-Dihydro-2H-Pyran-4-yl)Pyridin-2-yl)Oxy)Azetidin-1-yl)(Pyrimidin-4-yl)Methanone
To a solution of 2-(azetidin-3-yloxy)-3-(3,6-dihydro-2H-pyran-4-yl)pyridine hydrochloride (see PREPARATION P26.1; 100 mg, 0.45 mmol), pyrimidine-4-carboxylic acid (55 mg, 0.45 mmol) and triethylamine (96.13 mg, 0.95 mmol) in CH2Cl2 (10 mL) was added 4-Dimethylaminopyridine (DMAP) (55 mg, 0.47 mmol) and propyl phosphonic anhydride (500 mg, 0.9 mmol). The reaction mixture was stirred at room temperature for overnight. Then the reaction mixture was concentrated and the crude product was purified by silica gel column chromatography to give the desired compound (48 mg, 0.16 mmol, yield 66%). [M+1]: 339. IC50 (uM): 0.99.

reactant | 2-(azetidin-3-yloxy)-3-(3,6-dihydro-2H-pyran-4-yl)pyridine hydrochloride | 0.45 mmol, 100 mg | Cl.N1CC(C1)OC1=NC=CC=C1C=1CCOCC1
reactant | pyrimidine-4-carboxylic acid | 0.45 mmol, 55 mg | N1=CN=C(C=C1)C(=O)O | C5H4N2O2
reactant | triethylamine | 0.95 mmol, 96.13 mg | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
catalyst | 4-Dimethylaminopyridine | 0.47 mmol, 55 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | (3-((3-(3,6-Dihydro-2H-Pyran-4-yl)Pyridin-2-yl)Oxy)Azetidin-1-yl)(Pyrimidin-4-yl)Methanone | 0.16 mmol, 48 mg, yield 66% | O1CCC(=CC1)C=1C(=NC=CC1)OC1CN(C1)C(=O)C1=NC=NC=C1 | C18H18N4O3
